US07259177B2
In a dry four-necked flask with stirrer motor, internal thermometer, dropping funnel with pressure equalizer and reflux condenser with argon inlet (aspirator with tap), 9.3 g of LiAlH4 are covered with 600 ml of diethyl ether. The suspension is cooled to 0° C. 30 g of ethyl 5-methyl-2-p-tolyloxazole-4-carboxylate are dissolved in 100 ml of diethyl ether and added dropwise to the suspension. After one hour of stirring at room temperature, the reaction has ended (TLC (heptane/ethyl acetate 1:1): Rf, starting material=0.66, Rf, product=0.18). 80 g of MgSO4, 300 ml of methyl tert-butyl ether and 30 ml of ethyl acetate are added successively, and the suspension is stirred at room temperature. The mixture is then cooled to 0° C., 90 ml of 10N KOH are added dropwise and the mixture is stirred for another 60 min. The solids are filtered off, the residue is washed three times with ethyl acetate and the filtrate is concentrated, giving 24 g of 5-methyl-2-p-tolyl-oxazole-4-methanol as a yellow solid. C12H13NO2 (203.24), LCMS(ESI): 204.1 (MH+).

reactant | LiAlH4 | 9.3 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl 5-methyl-2-p-tolyloxazole-4-carboxylate | 30 g | CC1=C(N=C(O1)C1=CC=C(C=C1)C)C(=O)OCC | C14H15NO3
reactant | MgSO4 | 80 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | KOH | 10N, 90 ml | [OH-].[K+]
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 600 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | methyl tert-butyl ether | 300 ml | C(C)(C)(C)OC | C5H12O
solvent | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
product | 5-methyl-2-p-tolyl-oxazole-4-methanol | 24 g | CC1=C(N=C(O1)C1=CC=C(C=C1)C)CO | C12H13NO2
